US07781438B2
Preparation of 7-Chloro-2-methyl-8-(2,2,2-trichloro-ethyl)-quinoxaline
Tert-butylnitrite (2.74 g, 26.60 mmol, 1.5 equiv) was added to a suspension of copper(II) chloride (2.86 g, 21.28 mmol, 1.2 equiv) in anhydrous acetonitrile (25 ml). 1,1-Dichloroethene (25.8 g, 266 mmol, 15 equiv) and a solution of 6-chloro-3-methyl-quinoxalin-5-ylamine (3.43 g, 17.74 mmol) in anhydrous acetonitrile (16 ml) were added. After 4 hours at room temperature, concentrated aqueous NH4Cl solution and EtOAc were added. The mixture was filtered and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (gradient of hexane/EtOAc 100:0 to 90:10) to afford the title compound (3.08 g, 56%) as an oil. 1H NMR (400 MHz, CDCl3): δ=8.71 (s, 1H), 8.02 (d, J=8.8 Hz, 1H), 7.74 (d, J=8.8 Hz, 1H), 4.98 (s, 2H), 2.77 (s, 3H). MS (ES+): 310 (M+H)+.

reactant | Tert-butylnitrite | 26.60 mmol, 2.74 g, 1.5 equiv | C(C)(C)(C)ON=O | C4H9NO2
reactant | 1,1-Dichloroethene | 266 mmol, 25.8 g, 15 equiv | ClC(=C)Cl | C2H2Cl2
reactant | 6-chloro-3-methyl-quinoxalin-5-ylamine | 17.74 mmol, 3.43 g | ClC=1C(=C2N=C(C=NC2=CC1)C)N | C9H8ClN3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
catalyst | copper(II) chloride | 21.28 mmol, 2.86 g, 1.2 equiv | [Cu](Cl)Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Chloro-2-methyl-8-(2,2,2-trichloro-ethyl)-quinoxaline | 3.08 g, 56% | ClC1=CC=C2N=CC(=NC2=C1CC(Cl)(Cl)Cl)C | C11H8Cl4N2
